.title FVO netlist

***** NETLIST *****

R35 Vin Q12E 22k
C30 Vin Q12B 1u
R37 Q12B 0 10k
R36 Vin Q12B 3.3k
R38 Q12B Q11B 100k
C28 Q11B Q12C 10p

* PNP order:
* Collector -> Base   -> Emitter
* (No arrow -> Middle -> Arrow )
Q12 Q12C Q12B Q12E MMBT3906
Q11 0 Q11B Q12E MMBT3906

* Oscillator

* Coilcraft model
X4 Q12C 0 1812FS105_imp

*L4 Q12C L4_DCR 1m 
*R_L4DC L4_DCR 0 19.5

C27 Q12C 0 330p

* Varicap

C25 Q1C 0 3.5p

* Potentiometer

R32 Vin R32_2 33K
RV1_1 R32_2 RV1_Wiper 5K
RV1_2 RV1_Wiper 0 5K
*ARV1 0 RV1_Wiper R32_2 APot

* Diode-y part
C29 Q12C C29_2 100p
R39 C29_2 0 1Meg
D4 C29_2 D4_2 SM4001
D5 0 D4_2 SM4001
R40 D4_2 RV1_Wiper 1Meg
C31 RV1_Wiper 0 1u

* JFET
J10 Vin J10G D J2N5484
R33 Vin J10G 4.7Meg
R34 J10G 0 2.7Meg
C26 Q12C J10G 10p
R31 D 0 2.2k

***** END NETLIST *****
