.title VVO netlist
 
* JFET
* ngspice : Drain -> Gate -> Source
* KiCad   : 2     -> 3    -> 1

J8 Vin J8G J8S J2N5484
R27 Vin J8G 4.7Meg
R28 J8G 0 2.7Meg
C19 VOL_ANT J8G 10p
R29 J8S 0 2.2k
C20 VOL_ANT D 10p

* NPN order:
* Collector -> Base   -> Emitter
* (No arrow -> Middle -> Arrow )

Q9 Q9C Q9B Q9E MMBT3904
C23 J8S Q9B 0.1u
D3 0 Q9B d1n914
R30 Q9E 0 2.2k
C22 Q9C 0 0.1u
R26 Vin Q9C 68k
J13 E J13G C J2N5484
R41 J13G Q9C 100k
C34 Q9B 0 0.1u

* TODO: parameterize C24
C24 VOL_ANT 0 5p

C21 VOL_ANT 0 330p

X3 VOL_ANT 0 1812FS105_imp
*L3 VOL_ANT L3_DCR 1m 
*R_L3DC L3_DCR 0 19.5

* Hand
CLeftHand VOL_ANT 0 5p
