***** Net aliases *****
* These do NOT correspond to the labeled test points on the rev 1 PCB,
* they are in the wrong places!

* TP1 / A: output of the FIXED PITCH OSC
R1001 A TP1 0

* TP2 / C: output of the MIXER
R1002 C TP2 0

* TP3 / B: output of the VAR PITCH OSC
R1003 B TP3 0

* TP4 / D: output of the FIXED VOL OSC
R1004 D TP4 0

* TP5 / J8S: slope detector buffered output
R1005 J8S TP5 0

* TP6 / Q9C: volume processor output
R1006 Q9C TP6 0

* TP7 / Q14C: audio preamp output
R1007 Q14C TP7 0

